US07531533B2
Synthesis of 2-(2,2-dimethyl-1,3-dioxolan-4-yl)acetaldehyde (Intermediate ia-03) (Preparation method ic-03)
A solution of 2-(2,2-dimethyl-1,3-dioxolan-4-yl)ethanol (530 mg, ALD) in dichloromethane (50 ml) was added with Dess-Martin periodinane[1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one] (2.23 g, LANC), and the mixture was stirred at room temperature for 2 hours. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (flash column chromatography, hexane:ethyl acetate=2:1) to obtain the title compound (Intermediate ia-03).

reactant | 2-(2,2-dimethyl-1,3-dioxolan-4-yl)ethanol | 530 mg | CC1(OCC(O1)CCO)C | C7H14O3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-(2,2-dimethyl-1,3-dioxolan-4-yl)acetaldehyde | CC1(OCC(O1)CC=O)C | C7H12O3
